US09328306B2
A reactor equipped with a dropping funnel and a condenser was charged with 20 g (0.5 mol) of sodium hydroxide (manufactured by Kanto Chemical Co., Inc.) and 500 mL of water. 2434 g (28.3 mol) of n-pentanal (“Valeraldehyde” manufactured by Tokyo Chemical Industry Co., Ltd.) was added dropwise to the mixture from the dropping funnel over 3.5 hours while stirring the mixture at 80° C. The mixture was stirred at 95° C. for 2 hours, and the aqueous layer was removed from the reaction product. The reaction product was purified by distillation (b.p.: 70° C./0.7 kPa) to obtain 1930 g of 2-propyl-2-heptenal.

reactant | sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
reactant | n-pentanal | 28.3 mol, 2434 g | C(CCCC)=O | C5H10O
solvent | water | 500 mL | O | H2O
product | 2-propyl-2-heptenal | 1930 g | C(CC)C(C=O)=CCCCC | C10H18O
